US04528133
Nα -Acetylaspartyl-prolyl-alanyl-alanine ethylamide
The condensation of Z-Pro-Ala with Ala-NH-Et by the procedure in Example 7 yields Z-Pro-Ala-Ala-NH-Et; m.p. 219°-220° C. from 2-propanol--AcOEt); (α)D20 =-36.2°; c=0.2 (dimethylformamide). This intermediate is successively converted, as described in Example 2, into (1) BOC-Asp(Obzl)-Pro-Ala-Ala-NH-Et, m.p. 133°-136° C. (AcOEt--petroleum ether), (α)D20 =-61.1°, c=0.2 (MeOH); (2) Asp(OBzl)-Pro-Ala-Ala-NH-Et.HCl, m.p. 189°-193° C. (MeOH--Et2O), and (3) Ac-Asp(OBzl(-Pro-Ala-Ala-NH-Et, m.p. 191°-193° C. (AcOEt--petroleum ether), (α)D20 =-68.5°, c=0.2 (MeOH). Hydrogenolysis of the latter product by the procedure in Example 1 yields the title compound, Nα -Acetylaspartyl-prolyl-alanyl-alanine ethylamide; m.p. 153°-155° C. (melting begins at 143° C.).

reactant | 2-propanol | CC(C)O | C3H8O
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | Asp(OBzl)-Pro-Ala-Ala-NH-Et.HCl | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCC)CCC1.Cl
reactant | Ac-Asp | N([C@@H](CC(O)=O)C(=O)O)C(=O)C | C6H9NO5
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Acetylaspartyl-prolyl-alanyl-alanine ethylamide | C(C)NC([C@@H](NC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC(C)=O)CC(O)=O)=O)=O)C)=O)C)=O | C19H31N5O7
